US06214826B1
7-Chloro-4-hydroxy-2-(4′-hydroxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one.
To a mixture of the 7-chloro-4-hydroxy-2-(4′-methoxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one (521 mg) in methylene chloride (50 mL), cooled in an ice/water bath, was added BBr3 dropwise (0.300 mL). The mixture was stirred with cooling for 15 minutes. The cooling bath was removed and the reaction was stirred at room temperature for 3 hours. The resulting solution was cooled to 0° C. and saturated NaHCO3 (55 mL) was added. The resulting mixture was stirred for 20 minutes, then the pH was adjusted with 6N HCl to pH=2. This was stirred for 15 minutes and the mixture was neutralized with saturated NaHCO3. The mixture was filtered and the paste residue was washed twice with ethyl acetate. The crude solid was taken in water (25 mL) and extracted three times with ethyl acetate/THF (4:1). The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to dryness. The residue was triturated in ethyl acetate to afford the title compound as a yellow solid (48%). mp 210-212° C. (decomp.); MS 342(m+H); NMR 3.78(s,2H), 7.69(d,2H,J=8.8 Hz), 6.92(dd,1H,J1=8 Hz,J2=2 Hz), 7.10(d,1H,J=8 Hz), 7.20(d,1H,J=2 Hz), 7.26(d,2H,J=8.8 Hz), 9.0 (s,1H), 9.59(bs,1H), 1.95(bs,1H).

reactant | 7-chloro-4-hydroxy-2-(4′-methoxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one | 521 mg | ClC=1C=CC=2CC3=C(NC2C1)C(=NN(C3=O)C3=CC=C(C=C3)OC)O | C18H14ClN3O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-hydroxy-2-(4′-hydroxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one | 48% | ClC=1C=CC=2CC3=C(NC2C1)C(=NN(C3=O)C3=CC=C(C=C3)O)O | C17H12ClN3O3
